US06117866
Anhydrous isopentylamine was bubbled into anhydrous DMF (200 mL) at 0° C. for 15 min. A solution of t-butyl 4-bromomethyl-3-nitrobenzoate (5.0 g, 15.8 mmol) (Int. J. Peptide. Res., 36, 31 (1990)) in DMF (10 mL) was added dropwise to the cold amine solution. The solution was stirred at 0° for 30 min and poured into water. The mixture was extracted with ethyl acetate and the combined organic layers were washed with water, dried (sodium sulfate) and concentrated to give a yellow-brown oil. The oil was purified by chromatography over silica gel to yield t-butyl 4-(isopentylamino)methyl-3-nitrobenzoate.

reactant | t-butyl 4-bromomethyl-3-nitrobenzoate | 15.8 mmol, 5.0 g | BrCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C12H14BrNO4
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | t-butyl 4-(isopentylamino)methyl-3-nitrobenzoate | C(CC(C)C)NCC1=C(C=C(C(=O)OC(C)(C)C)C=C1)[N+](=O)[O-] | C17H26N2O4
